US04339386
B. 5-(3,4-Dimethoxyphenyl)furylformaldoxime
5-(3,4-Dimethoxyphenyl)furaldehyde (100 g, 0.43 mole), hydroxylamine hydrochloride (59.9 g, 0.86 mole) and anhydrous sodium acetate (70.69 g) was treated with solution of water (150 ml) in SDA #32 (2200 ml). The reaction mixture was heated at reflux for 6 hours. The mixture was filtered hot and the filtrate chilled. The intermediate was collected and used without further purification in Part B; 38 g (36%), m.p. 148°.

reactant | 5-(3,4-Dimethoxyphenyl)furaldehyde | 0.43 mole, 100 g | COC=1C=C(C=CC1OC)C1=CC=C(O1)C=O | C13H12O4
reactant | hydroxylamine hydrochloride | 0.86 mole, 59.9 g | Cl.NO
reactant | sodium acetate | 70.69 g | C(C)(=O)[O-].[Na+]
solvent | water | 150 ml | O | H2O
product | 5-(3,4-Dimethoxyphenyl)furylformaldoxime | COC=1C=C(C=CC1OC)C1=CC=C(O1)C=NO | C13H13NO4
